US05993780
a. 5-[N'-(2-Acetoxyethyl)-2,2-dimethyl-1,3-dioxolane-4-carboxamido]-3-acetoxymethyl-N-(2,3-diacetoxypropyl)-2,4,6-triiodobenzamide
5-(2,2-Dimethyl-1,3-dioxolane-4-carboxamido)-3-acetoxymethyl-N-(2,3-diacetoxypropyl)-2,4,6-triiodobenzamide (0.44 g, 0.50 mmol) was dissolved in dimethylsulfoxide (3 ml) and cesmium carbonate (0.33 g, 1.0 mmol) was added. 2-Bromoethyl acetate (0.25 g, 2.5 mmol) was added dropwise. The mixture was stirred at 45° C. for 17 h then added slowly into water (50 ml). A precipitate was formed, filtered off and the filtercake was dissolved in chloroform (60 ml). The organic phase was washed with water (2×30 ml), then dried (Na2SO4) and evaporated to a solid product. Yield: 0.46 g (93%).

reactant | 5-(2,2-Dimethyl-1,3-dioxolane-4-carboxamido)-3-acetoxymethyl-N-(2,3-diacetoxypropyl)-2,4,6-triiodobenzamide | 0.50 mmol, 0.44 g | CC1(OCC(O1)C(=O)NC=1C(=C(C(=C(C(=O)NCC(COC(C)=O)OC(C)=O)C1I)I)COC(C)=O)I)C | C23H27I3N2O10
reactant | carbonate | 1.0 mmol, 0.33 g | C([O-])([O-])=O
reactant | 2-Bromoethyl acetate | 2.5 mmol, 0.25 g | C(C)(=O)OCCBr | C4H7BrO2
reactant | water | 50 ml | O | H2O
solvent | dimethylsulfoxide | 3 ml | CS(=O)C | C2H6OS
product | 5-[N'-(2-Acetoxyethyl)-2,2-dimethyl-1,3-dioxolane-4-carboxamido]-3-acetoxymethyl-N-(2,3-diacetoxypropyl)-2,4,6-triiodobenzamide | C(C)(=O)OCCN(C(=O)C1OC(OC1)(C)C)C=1C(=C(C(=C(C(=O)NCC(COC(C)=O)OC(C)=O)C1I)I)COC(C)=O)I | C27H33I3N2O12
